US07037932B2
a) 2-Iodo-7-methoxy-1-benzothiophene
In a 4 L mechanically stirred reactor, a solution of 1-benzothien-7-yl methyl ether (105 g, 0.64 mol) in anhydrous THF (2 L) is cooled down to −74° C. n-Butyl lithium in hexane is added (2.5 N, 285 mL, 0.71 mol) within 45 min, keeping temperature below −70° C. The mixture is stirred 30 min at −78° C. and a solution of iodine (179 g, 0.70 mol) in anhydrous THF (1 L) is added within 1 h, keeping temperature below −70° C. After addition, the mixture is allowed to come up to room temperature over 2 h and brine (500 mL) is added. The layers are roughly separated and the organic layer is partially evaporated. Additional brine (200 mL) is added to the residual aqueous layer (mixed with some THF). After decantation, the organic and aqueous layers are separated. The aqueous layer is extracted with ethyl acetate (500 mL). The organic layers are pooled, washed with aqueous sodium thiosulphate, dried (MgSO4) and the solvent evaporated in vacuo to give the crude iodo derivative (173.6 g, 93%) The solid is recrystallized from isopropanol (150 mL) to give pure compound (145.5 g, 88%); δH (600 MHz, CDCl3) 7.51 (s, 1H), 7.32 (d(br), J=7.89 Hz, 1H), 7.26 (t, J=7.89 Hz, 1H), 6.72 (d(br), J=7.89 Hz, 1H), 3.97 (s, 3H).

reactant | 1-benzothien-7-yl methyl ether | 0.64 mol, 105 g | COC1=CC=CC=2C=CSC21 | C9H8OS
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | iodine | 0.70 mol, 179 g | II | I2
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | brine | 500 mL | [Cl-].[Na+].O
product | 2-Iodo-7-methoxy-1-benzothiophene | 145.5 g, 88% | IC=1SC2=C(C1)C=CC=C2OC | C9H7IOS
